US06087380
1-Methyl-2-[N-(4-amidinophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(3-methylphenyl)-N-(2-ethoxycarbonylethyl)-amide-hydrochloride
Prepared analogously to Example 25d from 1-methyl-2-[N-(4-cyanophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(3-methylphenyl)-N-(2-ethoxycarbonylethyl)-amide and ethanolic hydrochloric acid, ethanol and ammonium carbonate. Yield: 79% of theory, C29H32N6O3 (512.6) Rf value: 0.10 (silica gel; dichloromethane/ethanol=4:1) ##EQU59##

reactant | 1-methyl-2-[N-(4-cyanophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(3-methylphenyl)-N-(2-ethoxycarbonylethyl)-amide | CC=1C=C(C=CC1)N(C(=O)C1=CC2=C(N(C(=N2)CNC2=CC=C(C=C2)C#N)C)C=C1)CCC(=O)OCC | C29H29N5O3
reactant | hydrochloric acid | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | dichloromethane ethanol | ClCCl.C(C)O
product | 1-Methyl-2-[N-(4-amidinophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(3-methylphenyl)-N-(2-ethoxycarbonylethyl)-amide-hydrochloride | Yield: 79% | Cl.CC=1C=C(C=CC1)N(C(=O)C1=CC2=C(N(C(=N2)CNC2=CC=C(C=C2)C(N)=N)C)C=C1)CCC(=O)OCC | InChI=1S/C29H32N6O3.ClH/c1-4-38-27(36)14-15-35(23-7-5-6-19(2)16-23)29(37)21-10-13-25-24(17-21)33-26(34(25)3)18-32-22-11-8-20(9-12-22)28(30)31;/h5-13,16-17,32H,4,14-15,18H2,1-3H3,(H3,30,31);1H
